US07713994B2
4-[(3-Hydroxy-4-pyridin-4-yl-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound is prepared from 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione (50 mg, 0.15 mmol) and 5-Aminomethyl-2-pyridin-2-yl-phenol (40 mg, 0.20 mmol) in 40% yield: MS (ESI): 498.1 (M+1)+1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.15 mmol, 50 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8INO3
reactant | 5-Aminomethyl-2-pyridin-2-yl-phenol | 0.20 mmol, 40 mg | NCC=1C=CC(=C(C1)O)C1=NC=CC=C1 | C12H12N2O
product | 4-[(3-Hydroxy-4-pyridin-4-yl-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione | 40% yield | OC=1C=C(CNC=C2C(NC(C3=CC=C(C=C23)I)=O)=O)C=CC1C1=CC=NC=C1 | C22H16IN3O3
